US07645785B2
4-chlorobenzoic acid (43.8 mg, 0.28 mmol, 1.1 equiv.) was added to a solution of 3-methylbutyraldehyde (21.5 mg, 0.38 mmol, 1.5 equiv.), cyclohexyl isocyanide (30.6 mg, 0.28 mmol, 1.1 equiv.) and N-tert-butoxycarbonyl phenylene diamine (52.1 mg, 0.25 mmol, 1 equiv.) in methanol (0.5 mL). The reaction mixture was heated in a focussed microwave (CEM Discovery) at 100° C., for 10 minutes with stirring. The solvent was removed in-vacuo and the residue re-dissolved in dichloromethane (2 mL), washed with 1 M aqueous HCl (2 mL), saturated aqueous solution of NaHCO3 (2 mL), dried over Na2SO4 and evaporated under vacuum to afford crude {2-[(4-chloro-benzoyl)-(1-cyclohexylcarbamoyl-3-methyl-butyl)-amino]-phenyl}-carbamic acid tert-butyl ester, 83 mg (61%) as an oil. MS (ES+): 564 (M+H).

reactant | 4-chlorobenzoic acid | 0.28 mmol, 43.8 mg, 1.1 equiv. | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 3-methylbutyraldehyde | 0.38 mmol, 21.5 mg, 1.5 equiv. | CC(CC=O)C | C5H10O
reactant | cyclohexyl isocyanide | 0.28 mmol, 30.6 mg, 1.1 equiv. | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | N-tert-butoxycarbonyl phenylene diamine | 0.25 mmol, 52.1 mg, 1 equiv. | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)N | C11H16N2O2
reactant | methanol | 0.5 mL | CO | CH4O
product | {2-[(4-chloro-benzoyl)-(1-cyclohexylcarbamoyl-3-methyl-butyl)-amino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)N(C(CC(C)C)C(NC1CCCCC1)=O)C(C1=CC=C(C=C1)Cl)=O)=O | C30H40ClN3O4
